US07186732B2
1-[3-(4-Iodo-phenoxy)-propyl]-piperidine
A suspension of 4-(3-chloro-l-propoxy)iodobenzene (5 g), piperidine (2.2 mL), sodium carbonate (2.7 g), and potassium iodide (140 mg) in n-butanol (30 mL) was heated in a 105° C. bath for 18 h. The resulting mixture was allowed to cool to room temperature, diluted with water (50 mL), and extracted with methylene chloride (2×20 mL). The combined organic phases were dried (magnesium sulfate), and evaporated in vacuo. Kugelrohr distillation of the residue (5 mm Hg, 260° C.) gave the title compound as a white crystalline solid (4.8 g).

reactant | 4-(3-chloro-l-propoxy)iodobenzene | 5 g | ClCCCOC1=CC=C(C=C1)I | C9H10ClIO
reactant | piperidine | 2.2 mL | N1CCCCC1 | C5H11N
reactant | sodium carbonate | 2.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | 30 mL | C(CCC)O | C4H10O
solvent | water | 50 mL | O | H2O
catalyst | potassium iodide | 140 mg | [I-].[K+]
product | 1-[3-(4-Iodo-phenoxy)-propyl]-piperidine | 4.8 g | IC1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20INO
